US07713994B2
2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
LiHMDS (1.6 g, 9.6 mmol) is added to a 100 mL round bottom flask. Toluene (20 mL) is added followed by addition of Pd2(dba)3.CHCl3 (50 mg, 0.05 mmol) and P(tBu)3.HBF4 (40 mg, 0.14 mmol). 2-(4-Bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.5 g, 4.6 mmol) is added to the flask. After degasing, the mixture is stirred at room temperature overnight. After TLC suggested no starting bromide is left, the reaction mixture is diluted with ether and poured into dilute HCl (aq). The ether layer is discarded, the aqueous layer is basified with NH4OH and extracted with EtOAc. The EtOAc layer is dried and concentrated to provide the desired product (1.0 g, 83%). 1H NMR (300 MHz, CDCl3) ∂ 6.94-6.96 (2H, m), 6.60-6.67 (2H, m), 4.67-4.85 (1H, m), 3.58 (4H, br), 2.24 (1H, m), 1.73-1.97 (3H, m), 1.44 (3H, s), 1.21 (6H, s).

reactant | LiHMDS | 9.6 mmol, 1.6 g | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | CHCl3 | 0.05 mmol, 50 mg | C(Cl)(Cl)Cl | CHCl3
reactant | P(tBu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HBF4 | 0.14 mmol, 40 mg | [H+].[B-](F)(F)(F)F
reactant | 2-(4-Bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.6 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC=C(C=C1)Br | C15H20BrNO2
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.0 g, 83% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC=C(C=C1)N | C15H22N2O2
